US07960394B2
(1) Production of 3-methyl-2-[2-methyl-4-(4-piperidinyloxy)phenyl]-4(3H)-quinazolinone:
2-(4-Hydroxy-2-methylphenyl)-3-methyl-4(3H)-quinazolinone (200 mg, 0.751 mmol), tert-butyl 4-hydroxytetrahydro-1(2H)-pyridinecarboxylate (227 mg, 1.12 mmol) and triphenyl phosphine (295 mg, 1.12 mmol) were dissolved in THF (2.0 mL), and with stirring at 0° C., diisopropyl azodicarboxylate (228 mg, 1.12 mmol) was added thereto and stirred for 24 hours. The reaction solution was diluted with ethyl acetate, poured into saturated saline water, extracted with ethyl acetate, and the organic layer was dried with magnesium sulfate. The solvent was evaporated off, and the resulting residue was dissolved in chloroform (3 mL), trifluoroacetic acid (2 mL) was added thereto, and stirred at room temperature for 2 hours. The reaction solution was diluted with ethyl acetate, washed with aqueous 1 N sodium hydroxide solution and saturated saline water, and the organic layer was dried with magnesium sulfate. The solvent was evaporated off, and the residue was purified through silica gel column chromatography (chloroform/methanol=1/1) to obtain the intended compound (245 mg, 93%) as a colorless solid.

reactant | 2-(4-Hydroxy-2-methylphenyl)-3-methyl-4(3H)-quinazolinone | 0.751 mmol, 200 mg | OC1=CC(=C(C=C1)C1=NC2=CC=CC=C2C(N1C)=O)C | C16H14N2O2
reactant | tert-butyl 4-hydroxytetrahydro-1(2H)-pyridinecarboxylate | 1.12 mmol, 227 mg | OC1CCN(CC1)C(=O)OC(C)(C)C | C10H19NO3
reactant | triphenyl phosphine | 1.12 mmol, 295 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 1.12 mmol, 228 mg | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 3-methyl-2-[2-methyl-4-(4-piperidinyloxy)phenyl]-4(3H)-quinazolinone | 245 mg, 93% | CN1C(=NC2=CC=CC=C2C1=O)C1=C(C=C(C=C1)OC1CCNCC1)C | C21H23N3O2
